US05502065
Diethyl(4-pyridyl)borane
4-Bromopyridine was reacted with n-butyllithium and then with diethylmethoxyborane using a procedure similar to that in Preparation 49. This gave the title compound, which was used without characterisation.

reactant | 4-Bromopyridine | BrC1=CC=NC=C1 | C5H4BrN
reactant | n-butyllithium | C(CCC)[Li]
reactant | diethylmethoxyborane | C(C)B(OC)CC | C5H13BO
product | Diethyl(4-pyridyl)borane | C(C)B(C1=CC=NC=C1)CC | C9H14BN
